US08258144B2
4-(4-amino-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzoic acid
To a solution of butyl 4-(4-amino-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzoate (137 mg, 0.340 mmol) in THF (3 mL), aq. 1N LiOH (2.0 mL, 2.0 mmol) was added. The mixture was stirred at room temperature for 20 h. It was concentrated in vacuo. The residue was acidified with HOAc (2 mL), then was purified by HPLC to give the titled compound (55 mg). MS 347.2 (M+H); UV 203.8, 306.7 nm.

reactant | butyl 4-(4-amino-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzoate | 0.340 mmol, 137 mg | NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)OCCCC)C=C1)NC=C2C2=CC=NC=C2 | C22H22N6O2
reactant | LiOH | 2.0 mmol, 1N, 2.0 mL | [Li+].[OH-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(4-amino-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzoic acid | 55 mg | NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)O)C=C1)NC=C2C2=CC=NC=C2 | C18H14N6O2
